* File: dff2.pex.sp.pex
* Created: Thu May  8 15:01:54 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_DFF2%CLK- 1 2 3 4 5 6 10 16 25 28 30 35 37 39 41 43 44 47 49 50 54 60
+ 62 64 69 73 78 85 89 98 99 100 106 108 110 113 118 125 127
c251 78 0 1.3345e-19
c252 73 0 1.3345e-19
c253 69 0 3.82691e-19
c254 64 0 2.8032e-19
c255 43 0 1.48511e-19
c256 37 0 1.21474e-19
c257 35 0 1.61603e-19
c258 28 0 0.00580122f
c259 10 0 6.2155e-20
c260 1 0 6.53896e-20
r261 125 126 0.127301
r262 124 126 0.207904
r263 123 125 0.236078
r264 120 122 0.207904
r265 118 123 0.0489649
r266 118 122 0.873749
r267 115 117 2.7795
r268 113 124 0.0489649
r269 113 117 0.255543
r270 110 111 0.509205
r271 108 111 0.0893794
r272 106 107 0.127301
r273 105 108 0.0489649
r274 105 107 0.122411
r275 104 106 1.24548
r276 102 103 0.154293
r277 101 102 0.237243
r278 100 101 0.062177
r279 99 104 0.0489649
r280 99 103 0.686269
r281 97 100 0.0489649
r282 97 98 1.18816
r283 95 96 0.127301
r284 94 95 0.144756
r285 91 94 0.0729088
r286 89 98 0.0489649
r287 89 96 0.453697
r288 86 87 0.164334
r289 85 87 0.204018
r290 83 127 0.00964403
r291 83 86 0.121439
r292 78 79 0.347185
r293 77 81 0.39152
r294 77 79 1.0813
r295 75 127 0.0371092
r296 75 78 0.157385
r297 71 127 0.0371092
r298 71 73 1.07352
r299 69 120 25
r300 66 69 2.48
r301 64 115 25
r302 61 64 0.965732
r303 61 62 4.94953
r304 59 60 2.96419
r305 57 110 25
r306 57 59 2.92402
r307 54 91 25
r308 51 54 4.67414
r309 49 66 2.87688
r310 44 47 3.46412
r311 44 60 146.261
r312 43 59 2.12404
r313 42 61 3.13417
r314 41 62 41.3008
r315 39 41 3.46412
r316 37 51 3.13417
r317 36 50 4.67793
r318 35 50 4.67793
r319 32 85 25
r320 30 50 0.604384
r321 30 32 3.87782
r322 28 73 10
r323 25 81 15
r324 25 77 10
r325 23 49 27.6315
r326 20 47 45.4992
r327 17 43 43.7417
r328 16 42 108.476
r329 14 39 97.7354
r330 11 37 13.8646
r331 10 36 125.465
r332 8 35 78.5984
r333 6 20 46.6709
r334 5 17 46.6709
r335 5 16 46.5732
r336 4 11 46.6709
r337 4 10 46.5732
r338 3 23 27.3386
r339 2 14 27.3386
r340 1 8 27.3386
.ends

.subckt PM_DFF2%GND! 2 23 25 26 28 30 32 33 41 47 49 54 56 61 63 69 71 75 77 81
+ 87 92 98
c179 87 0 3.49978e-19
c180 69 0 0.00208547f
c181 47 0 2.83777e-19
c182 33 0 0.00112759f
c183 32 0 0.00227389f
c184 30 0 0.00126534f
c185 28 0 0.00227389f
c186 26 0 0.00114631f
c187 25 0 0.00114631f
c188 23 0 0.00118468f
c189 2 0 0.00236344f
r190 85 98 0.0188364
r191 85 87 1.31807
r192 84 97 0.0271748
r193 83 98 0.0271748
r194 83 84 0.166497
r195 79 97 0.0188364
r196 79 81 1.31583
r197 78 96 0.0271748
r198 77 97 0.0271748
r199 77 78 0.754412
r200 73 96 0.0188364
r201 73 75 1.12987
r202 72 95 0.0271748
r203 71 96 0.0271748
r204 71 72 1.61324
r205 67 95 0.0188364
r206 67 69 1.14153
r207 64 94 0.0271748
r208 64 66 0.0376265
r209 63 95 0.0271748
r210 63 66 1.97727
r211 59 94 0.0188364
r212 59 61 1.14153
r213 57 93 0.0271748
r214 56 94 0.0271748
r215 53 54 0.328668
r216 51 93 0.0188364
r217 51 54 0.86562
r218 50 92 0.0271748
r219 49 93 0.0271748
r220 49 50 0.401663
r221 46 47 0.324039
r222 44 92 0.0188364
r223 44 47 0.86562
r224 41 56 0.00940663
r225 41 57 0.689506
r226 33 87 10
r227 32 81 10
r228 30 75 10
r229 28 69 10
r230 26 61 10
r231 25 53 10
r232 23 46 10
r233 2 66 30
.ends

.subckt PM_DFF2%CLK+ 1 2 3 4 8 11 14 17 20 23 25 26 27 32 39 44 47 48 50 51 57
+ 64 79 81 87 88 90 93
c201 79 0 5.33707e-20
c202 64 0 6.53896e-20
c203 57 0 2.02546e-19
c204 47 0 3.2172e-19
c205 44 0 3.12825e-19
c206 23 0 1.36589e-19
c207 20 0 0.00229385f
r208 90 91 0.931683
r209 88 91 0.259231
r210 86 88 0.0489649
r211 86 87 1.43104
r212 83 85 0.510362
r213 81 87 0.0489649
r214 81 85 0.188474
r215 76 77 1.78916
r216 75 79 1.40772
r217 75 77 0.708234
r218 73 93 0.00964403
r219 73 76 0.272024
r220 68 69 0.711729
r221 67 68 0.210819
r222 66 67 0.347185
r223 65 66 0.157385
r224 64 65 0.127301
r225 63 71 0.565272
r226 63 69 0.394147
r227 61 93 0.0371092
r228 61 64 0.0514903
r229 59 60 0.016202
r230 57 59 0.398355
r231 55 93 0.0371092
r232 55 60 0.625656
r233 53 90 25
r234 50 53 1.35684
r235 50 51 4.33319
r236 49 51 96.7591
r237 47 79 25
r238 47 49 5.51587
r239 47 48 5.58573
r240 44 75 25
r241 41 44 1.97009
r242 39 83 25
r243 36 39 4.83466
r244 33 50 3.2098
r245 32 34 3.46412
r246 32 33 44.5228
r247 26 28 3.46412
r248 26 27 146.261
r249 25 41 3.13417
r250 24 27 3.46412
r251 23 36 2.68725
r252 20 57 10
r253 17 71 15
r254 17 63 10
r255 14 34 35.1496
r256 12 48 61.8047
r257 11 28 42.2772
r258 9 25 61.8047
r259 8 24 42.2772
r260 6 23 19.7228
r261 4 14 46.5732
r262 3 6 46.6709
r263 2 12 27.3386
r264 2 11 27.3386
r265 1 9 27.3386
r266 1 8 27.3386
.ends

.subckt PM_DFF2%B 1 2 3 4 5 8 11 14 17 20 28 29 30 31 32 34 36 37 40 41 45 50 52
+ 60 62 64
c139 52 0 4.16431e-20
c140 50 0 5.33707e-20
c141 45 0 4.25897e-19
c142 36 0 5.91006e-19
c143 20 0 0.00227389f
c144 14 0 9.24269e-20
c145 8 0 6.27899e-20
r146 65 66 1.63177
r147 64 66 0.654801
r148 62 65 0.230249
r149 58 62 0.0489649
r150 58 60 0.621769
r151 55 56 0.535822
r152 54 55 0.765852
r153 53 54 0.944343
r154 52 56 0.35347
r155 50 53 0.622741
r156 45 47 0.697842
r157 43 50 0.0489649
r158 43 45 0.916568
r159 40 52 25
r160 40 42 5.72948
r161 40 41 5.27993
r162 38 41 106.425
r163 36 64 25
r164 36 38 5.51587
r165 36 37 5.58573
r166 31 34 3.46412
r167 31 32 44.4252
r168 29 33 3.46412
r169 29 30 44.4252
r170 28 32 3.46412
r171 23 30 3.46412
r172 20 60 10
r173 17 45 10
r174 17 47 15
r175 15 34 13.8646
r176 12 14 217.635
r177 11 33 24.0189
r178 9 28 13.8646
r179 8 42 47.1591
r180 6 37 32.4157
r181 5 23 24.0189
r182 4 15 46.6709
r183 4 14 46.5732
r184 3 9 46.6709
r185 3 8 46.5732
r186 2 12 27.3386
r187 2 11 27.3386
r188 1 6 27.3386
r189 1 5 27.3386
.ends

.subckt PM_DFF2%A 1 2 6 9 13 19 23 24 29 31 37 44 50
c94 44 0 2.85099e-19
c95 23 0 4.66763e-19
c96 13 0 0.00110917f
c97 6 0 5.58291e-20
r98 48 50 0.422609
r99 44 46 0.39152
r100 42 44 0.575137
r101 39 41 1.31569
r102 37 42 0.0489649
r103 37 41 0.270804
r104 35 36 0.154293
r105 33 35 0.0578642
r106 31 48 0.0489649
r107 31 36 1.22672
r108 29 39 25
r109 26 29 3.37743
r110 23 33 25
r111 23 25 5.15729
r112 23 24 4.58848
r113 20 26 2.46378
r114 19 26 2.46378
r115 19 25 148.702
r116 13 50 10
r117 9 46 15
r118 9 44 10
r119 6 20 28.4126
r120 4 24 15.2315
r121 2 6 46.5732
r122 1 4 27.3386
.ends

.subckt PM_DFF2%C 1 2 3 4 8 14 17 21 29 32 36 37 40 41 48 52 58 62 64 69 71 77
c141 77 0 1.86812e-19
c142 40 0 2.03696e-19
c143 36 0 3.35697e-19
c144 32 0 1.2552e-19
c145 21 0 0.00227574f
c146 8 0 8.29199e-20
c147 2 0 9.62723e-20
r148 77 78 0.6412
r149 74 78 0.274851
r150 69 71 0.965686
r151 66 67 0.154293
r152 65 66 0.254602
r153 64 67 0.25113
r154 62 65 0.470213
r155 60 61 0.126111
r156 58 60 0.555707
r157 56 69 0.0489649
r158 56 61 0.236078
r159 52 54 0.39152
r160 50 62 0.0489649
r161 50 52 0.371119
r162 46 77 25
r163 46 48 3.43801
r164 44 64 25
r165 40 74 25
r166 40 42 5.77414
r167 40 41 5.36422
r168 38 41 44.4252
r169 36 71 25
r170 36 38 5.28453
r171 36 37 5.24729
r172 33 48 3.13417
r173 32 48 3.13417
r174 29 44 4.65814
r175 29 42 59.1685
r176 21 58 10
r177 17 54 15
r178 17 52 10
r179 14 33 81.3323
r180 12 32 120.485
r181 8 44 8.83365
r182 6 37 61.5118
r183 4 14 46.5732
r184 3 8 46.5732
r185 2 12 27.3386
r186 1 6 27.3386
.ends

.subckt PM_DFF2%E 1 2 6 9 12 16 17 23 27 33 41 46
c92 46 0 1.50751e-19
c93 16 0 3.82691e-19
c94 12 0 0.00110008f
c95 6 0 8.52208e-20
r96 45 48 0.457706
r97 45 46 0.332774
r98 43 46 0.292426
r99 39 41 0.357517
r100 37 38 0.154293
r101 35 37 0.157391
r102 33 39 0.0489649
r103 33 38 0.446711
r104 31 32 0.547395
r105 29 31 0.737799
r106 27 43 0.0489649
r107 27 32 0.0398321
r108 26 35 25
r109 23 29 25
r110 20 23 3.06847
r111 18 20 2.90384
r112 17 20 2.90384
r113 16 26 5.34837
r114 16 17 154.256
r115 12 41 10
r116 9 48 15
r117 9 45 10
r118 6 18 29.1648
r119 4 26 8.65202
r120 2 6 47.3184
r121 1 4 27.776
.ends

.subckt PM_DFF2%Q 1 4 7 18
c28 7 0 1.79211e-19
c29 4 0 0.00598994f
r30 18 22 0.198762
r31 13 16 0.39152
r32 13 14 1.11238
r33 10 22 1.7
r34 10 14 0.0839895
r35 10 11 0.0391951
r36 7 11 1.4971
r37 4 7 10
r38 1 16 15
r39 1 13 10
.ends

.subckt PM_DFF2%VDD! 2 22 24 26 28 30 41 46 53 60 64 68 72 76 80 84 91 95
c171 76 0 1.68141e-19
c172 68 0 0.00147583f
c173 60 0 1.29833e-19
c174 46 0 2.86829e-19
r175 87 88 0.331638
r176 84 87 0.457706
r177 82 95 0.016797
r178 82 88 1.00746
r179 81 94 0.0291575
r180 80 95 0.0291575
r181 80 81 1.06769
r182 76 79 0.39152
r183 74 94 0.016797
r184 74 79 1.2756
r185 73 93 0.0291575
r186 72 94 0.0291575
r187 72 73 1.66615
r188 68 71 0.39152
r189 66 93 0.016797
r190 66 71 1.2756
r191 65 92 0.0291575
r192 64 93 0.0291575
r193 64 65 1.96829
r194 60 63 0.39152
r195 58 92 0.016797
r196 58 63 1.2756
r197 54 91 0.0291575
r198 54 56 0.852019
r199 53 92 0.0291575
r200 51 52 0.127301
r201 50 51 0.148642
r202 49 50 0.325197
r203 46 49 0.466385
r204 44 91 0.016797
r205 44 52 0.752924
r206 41 53 0.376948
r207 41 56 0.106867
r208 30 87 15
r209 30 84 10
r210 28 79 15
r211 28 76 10
r212 26 71 15
r213 26 68 10
r214 24 63 15
r215 24 60 10
r216 22 49 15
r217 22 46 10
r218 2 56 30
.ends

.subckt PM_DFF2%CLK 1 2 6 14 15 18 23
c39 15 0 1.22174e-19
c40 6 0 4.69899e-20
c41 2 0 1.3345e-19
c42 1 0 1.3345e-19
r43 23 27 0.185799
r44 18 27 1.7
r45 18 21 0.00502177
r46 14 21 25
r47 14 16 7.64187
r48 14 15 7.72327
r49 6 16 78.0126
r50 4 15 110.624
r51 2 6 46.5732
r52 1 4 27.3386
.ends

.subckt PM_DFF2%R 1 2 3 4 8 14 28 29 32 33 36 37 40 45 53 54 55 58 59 61 64
c154 54 0 1.86812e-19
c155 40 0 4.78531e-20
c156 37 0 8.16369e-20
c157 32 0 5.21166e-19
c158 28 0 1.58296e-19
c159 4 0 1.50751e-19
c160 3 0 1.92129e-19
c161 2 0 1.42822e-19
c162 1 0 1.37156e-19
r163 64 68 0.185799
r164 61 62 1.1839
r165 59 62 0.289511
r166 58 59 0.0489649
r167 57 58 0.107838
r168 55 56 1.42693
r169 54 57 0.0489649
r170 54 56 1.33972
r171 53 55 0.0489649
r172 52 53 0.355574
r173 50 51 0.199178
r174 47 50 0.955916
r175 45 52 0.0489649
r176 45 51 0.414307
r177 40 68 1.7
r178 40 43 0.00502177
r179 36 61 25
r180 36 38 5.73021
r181 36 37 5.21175
r182 32 47 25
r183 32 34 5.52832
r184 32 33 5.50082
r185 29 34 13.2787
r186 28 43 25
r187 28 30 7.64087
r188 28 29 7.72192
r189 14 38 49.9906
r190 12 37 151.827
r191 8 30 78.0126
r192 6 33 83.7732
r193 4 14 46.5732
r194 3 8 46.5732
r195 2 12 27.3386
r196 1 6 27.3386
.ends

.subckt PM_DFF2%D 1 2 6 14 15 18 23
c54 6 0 7.40042e-20
r55 23 27 0.185799
r56 18 27 1.7
r57 18 21 0.00485757
r58 14 21 25
r59 14 16 7.68531
r60 14 15 7.75092
r61 6 16 78.0126
r62 4 15 110.624
r63 2 6 46.5732
r64 1 4 27.3386
.ends

